US05476944
trans-2-[2,4-bis(1,1-dimethylethyl)phenoxy]cyclopentanol (100)
To a solution of sodium ethoxide in ethanol (prepared by dissolving 230 mg of sodium in 25 ml of ethanol) was added 2.06 g (10.0 mmoles) of 2,4-di-t-butylphenol. The mixture was stirred for 5 minutes, and then 841 mg (10.0 mmoles) of cyclopentene oxide was added. After refluxing overnight, the mixture was cooled and evaporated, the residue partitioned between diethyl ether and dilute aqueous hydrochloric acid, the aqueous layer further extracted with ether, the combined organic extracts washed with brine, dried over sodium sulfate, filtered, and evaporated. Chromatography of the residue over silica gel using 10% ethyl acetate-hexane as eluent gave the title compound, 1.25 g, as a white crystalline solid, m.p. 111.5°-112° C.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 2,4-di-t-butylphenol | 10.0 mmoles, 2.06 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | cyclopentene oxide | 10.0 mmoles, 841 mg | C12C(CCC1)O2 | C5H8O
solvent | ethanol | 25 ml, 230 mg | C(C)O | C2H6O
product | trans-2-[2,4-bis(1,1-dimethylethyl)phenoxy]cyclopentanol | CC(C)(C)C1=C(O[C@H]2[C@@H](CCC2)O)C=CC(=C1)C(C)(C)C | C19H30O2
